US07276516B2
Dissolve 1-Benzhydryl-azetidin-3-ol (250 mg, 1.04 mmoL) in methanol (3.0 mL) and add to Pd(OH)2 (50 mg) under nitrogen. Degas reaction vessel and purge with 60 psi H2 (g). Repeat degass/H2 purge cycle again. Allow to stir under 60 psi H2 for 15 h. Release reaction and filter through celite with additional methanol. Evaporate methanol to yield azetidin-3-ol as a liquid which is used without further purification. Combine 4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid (200 mg, 0.53 mmol) and azetidin-3-ol (50 mg, 0.68 mmol, excess) in dichloromethane (1.0 mL) and triethylamine (0.500 mL, 3.58 mmol, excess) and add benzotriazol-1-yloxytris(dimethylamino)phosphonium hexfluorophosphate (BOP Reagent) (300 mg, 0.66 mmol, excess) at room temperature. Stir for 30 minutes, load entire reaction directly onto pre-packed silica gel column and purify by flash column chromatography (EtOAc/Hexanes) to yield 167 mg of (3-Hydroxy-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone as a white foam (73%). LRMS: MH+ 432.97.

reactant | 4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid | 0.53 mmol, 200 mg | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H15NO4S
reactant | azetidin-3-ol | 0.68 mmol, 50 mg | N1CC(C1)O | C3H7NO
reactant | triethylamine | 3.58 mmol, 0.500 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium | 0.66 mmol, 300 mg | N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | (3-Hydroxy-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone | 167 mg, 73% | OC1CN(C1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C24H20N2O4S
